US05646173
8.85 g of 8-chloro-1-tetralone were dissolved in 90 ml of tetrachloromethane under argon and added to 21.0 ml of 3-buten-2-ol and 190 mg of p-toluenesulfonic acid. The reaction solution was heated to reflux on a water separator for 9 days. The solvent was removed in a vacuum and the residue was chromatographed on 200 g of silica gel firstly with hexane/ethyl acetate 9:1 and then with hexane/ethyl acetate 4:1. In addition to large amounts of unreacted educt (8.3 g), there were obtained 4.1 g (35%) of 2-(2-buten-1-yl)-8-chloro-1-tetralone as a yellow oil.

reactant | 8-chloro-1-tetralone | 8.85 g | ClC=1C=CC=C2CCCC(C12)=O | C10H9ClO
reactant | 3-buten-2-ol | 21.0 ml | CC(C=C)O | C4H8O
reactant | p-toluenesulfonic acid | 190 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | tetrachloromethane | 90 ml | ClC(Cl)(Cl)Cl | CCl4
product | 2-(2-buten-1-yl)-8-chloro-1-tetralone | 4.1 g, 35% | C(C=CC)C1C(C2=C(C=CC=C2CC1)Cl)=O | C14H15ClO
